US05478845
5,6-methylenedioxyindole (1.3 g, 8 mmol) dissolved in 25 ml glacial acetic acid was reduced catalytically (1 atm., 22° C.) using 370 mg PtO2 hydrate to give 550 mg of crude 2,3-dihydro-5,6-methylenedioxyindole which was used without further purification.

reactant | 5,6-methylenedioxyindole | 8 mmol, 1.3 g | C1OC=2C=C3C=CNC3=CC2O1 | C9H7NO2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2,3-dihydro-5,6-methylenedioxyindole | 550 mg | C1OC=2C=C3CCNC3=CC2O1 | C9H9NO2
